US04029679
97 g. of 3-aminopropanephosphonic acid diethyl ester is dissolved in 400 ml. of dry pyridine and 55 g. of acetic anhydride is added with stirring. The mixture is then boiled for 4 hours with refluxing and freed of the low-boiling components by evaporation in a light vacuum. Gaschromatographically pure N-acetyl-3-aminopropanephosphonic acid diethyl ester is obtained in a 96% yield by shortcut distillation in vacuo. It is a pale yellow, highly viscous oil with a boiling point of 166° to 160° C. (0.4 Torr).

reactant | 3-aminopropanephosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCN | C7H18NO3P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-acetyl-3-aminopropanephosphonic acid diethyl ester | 96% yield | C(C)OP(OCC)(=O)CCCNC(C)=O | C9H20NO4P
